US07501539B2
Synthesis of methyl 3-oxo-2-pentylidene-1-cyclopentaneacetate
A mixture of 2-(1-hydroxypentyl)-2-cyclopenten-1-one (720 mg, 4.2 mmol) and pivalic acid (100 mg, 0.98 mmol) in trimethylorthoacetate (5 ml, 39.3 mmol) was heated at 115° C. for 3 hours with distillation of MeOH. The concentrated reaction mixture was bulb-to-bulb distilled to afford the title compound in 88% yield and in the form of a 66:34 (Z)/(E) mixture.

reactant | 2-(1-hydroxypentyl)-2-cyclopenten-1-one | 4.2 mmol, 720 mg | OC(CCCC)C=1C(CCC1)=O | C10H16O2
reactant | pivalic acid | 0.98 mmol, 100 mg | C(C(C)(C)C)(=O)O | C5H10O2
reactant | trimethylorthoacetate | 39.3 mmol, 5 ml | CC(C([O-])([O-])[O-])(C)C
solvent | MeOH | CO | CH4O
product | methyl 3-oxo-2-pentylidene-1-cyclopentaneacetate | 88% yield | O=C1C(C(CC1)CC(=O)OC)=CCCCC | C13H20O3
